US08258160B2
Synthesis of ethyl 4-methyl-2-(4-(3-phenylpropyl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxylate
To a solution of ethyl 2-azido-4-methylthiazole-5-carboxylate (5.31 g, 25.02 mmol) in tetrahydrofuran (50 mL) was added copper(I) iodide (4.76 g, 25.02 mmol), N,N-diisopropylethylamine (13.07 mL, 75.06 mmol) and 5-phenyl-1-pentyne (3.97 g, 27.52 mmol). The reaction mixture was stirred at ambient temperature for 18 hours and concentrated in vacuo. The residue was purified by column chromatography (ethyl acetate:petroleum ether, 1:4 ratio) to afford the title compound in 79% yield (7.04 g): 1H NMR (300 MHz, CDCl3) δ 8.14 (s, 1H), 7.31-7.16 (m, 5H), 4.33 (q, J=6.0 Hz, 2H), 2.82 (t, J=9.0 Hz, 2H), 2.77-2.69 (m, 5H), 2.10-2.04 (m, 2H), 1.38 (t, J=6.0 Hz, 3H); MS (ES+) m/z 357.3 (M+1).

reactant | ethyl 2-azido-4-methylthiazole-5-carboxylate | 25.02 mmol, 5.31 g | N(=[N+]=[N-])C=1SC(=C(N1)C)C(=O)OCC | C7H8N4O2S
reactant | N,N-diisopropylethylamine | 75.06 mmol, 13.07 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-phenyl-1-pentyne | 27.52 mmol, 3.97 g | C1(=CC=CC=C1)CCCC#C | C11H12
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 25.02 mmol, 4.76 g | [Cu]I
product | ethyl 4-methyl-2-(4-(3-phenylpropyl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxylate | 79% yield | CC=1N=C(SC1C(=O)OCC)N1N=NC(=C1)CCCC1=CC=CC=C1 | C18H20N4O2S
